US05767317
2,2'-Bis[bis(2-methylphenyl)phosphinylmethyl]-1,1'-bi-naphthyl
While stirring under nitrogen, 21.5 g (83 mmol) of ethyl bis(2-methylphenyl)phosphinite are slowly added dropwise to a solution of 18.4 g (42 mmol) of 2,2'-bis(bromo-methyl)-1,1'-binaphthyl in 100 ml of o-xylene, which solution has been heated to 120° C., with ethyl bromide distilling off. After the end of the addition, the mixture is heated under reflux for a further two hours and is then cooled to 0° C. The solid is filtered off, washed with cold o-xylene and dried in vacuo. This gives 25.1 g (81%) of colorless crystals having a melting point of 231°-234° C.

reactant | ethyl bis(2-methylphenyl)phosphinite | 83 mmol, 21.5 g | CC1=C(C=CC=C1)P(OCC)C1=C(C=CC=C1)C | C16H19OP
reactant | 2,2'-bis(bromo-methyl)-1,1'-binaphthyl | 42 mmol, 18.4 g | BrCC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CBr | C22H16Br2
reactant | ethyl bromide | C(C)Br | C2H5Br
solvent | o-xylene | 100 ml | CC=1C=CC=CC1C | C8H10
product | 2,2'-Bis[bis(2-methylphenyl)phosphinylmethyl]-1,1'-bi-naphthyl | CC1=C(C=CC=C1)P(=O)(C1=C(C=CC=C1)C)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CP(=O)(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C50H44O2P2
